US07135480B2
3-Cyano-1-[hydroxy-(4-methoxy-phenyl)-methyl]-pyrrolo[1,2-a]quinoline
To a solution of 3-cyano-(4-methoxy-benzoyl)-pyrrolo[1,2-a]quinoline (5.2 mg, 0.0159 mmol) in 5 mL of methanol at room temperature was added sodium borohydride (5.3 mg, 0.14 mmol) and it was stirred overnight at room temperature. Upon the completion of the reaction, 2 drops of aqueous 1N HCl was added and the reaction mixture was evaporated to near dryness. The residue was dissolved in 15 mL of ethyl acetate, washed with water, saturated NaCl and the organic layer was dried over anhydrous Na2SO4, filtered and evaporated. The crude was purified by chromatography (30% ethyl acetate/hexane) to yield the title compound (5.1 mg, 97%). 1H NMR (CDCl3): 8.69 (d, J=8.40 Hz, 1H), 7.77 (dd, J=7.80, 1.80 Hz, 1H), 7.57 (m, 2H), 7.47 (m, 1H), 7.38 (m, 3H), 6.95 (dt, J=8.42, 2.12 Hz, 2H), 6.59 (s, 1H), 6.51 (d, J=4.2 Hz, 1H), 3.84 (s, 3H), 2.64 (d, J=4.8, 1H).

reactant | 3-cyano-(4-methoxy-benzoyl)-pyrrolo[1,2-a]quinoline | 0.0159 mmol, 5.2 mg | C(#N)C=1C=C(N2C1C=CC1=CC=CC=C21)C(C2=CC=C(C=C2)OC)=O | C21H14N2O2
reactant | sodium borohydride | 0.14 mmol, 5.3 mg | [BH4-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
product | 3-Cyano-1-[hydroxy-(4-methoxy-phenyl)-methyl]-pyrrolo[1,2-a]quinoline | 5.1 mg, 97% | C(#N)C=1C=C(N2C1C=CC1=CC=CC=C21)C(C2=CC=C(C=C2)OC)O | C21H16N2O2
